US06355713B1
Synthesis of 2-(acetoacetyloxy)-propionic acid 2,2,6,6-tetramethyl-4-piperidyl ester
Lactic acid 2,2,6,6-tetramethyl-4-piperidyl ester (5 g, 21.8 mmol) was dissolved in 100 ml of toluene. At reflux temperature, 3.1 g (21.8 mmol) of 2,2,6-trimethyl-4H-1,3-dioxine-4-one was added dropwise. After 3 hours at reflux, the solvent was distilled of in vacuo. A viscous residue was left. Yield 4.8 g (70%).

reactant | Lactic acid 2,2,6,6-tetramethyl-4-piperidyl ester | 21.8 mmol, 5 g | CC1(NC(CC(C1)OC(C(O)C)=O)(C)C)C | C12H23NO3
reactant | 2,2,6-trimethyl-4H-1,3-dioxine-4-one | 21.8 mmol, 3.1 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(acetoacetyloxy)-propionic acid 2,2,6,6-tetramethyl-4-piperidyl ester | CC1(NC(CC(C1)OC(C(C)OC(CC(=O)C)=O)=O)(C)C)C | C16H27NO5
